US08895571B2
Step E: 2-bromo-6-[(1S)-1-(3-fluorobenzyl)-2-hydroxyethyl]-6,7-dihydro-5H-pyrrolo[3,4-b]pyridin-5-one
Ethyl 6-bromo-2-(bromomethyl)nicotinate (0.17 g, 0.53 mmol), (2S)-2-amino-3-(3-fluorophenyl)propan-1-ol (0.11 g, 0.64 mmol), N,N-diisopropylethylamine (0.2 g, 2 mmol) and 1,4-dioxane (5 mL) were mixed in one 20 mL microwave tube, and the mixture was stirred at 67° C. for overnight. LC-MS showed most starting material was converted to Br-replacement product. Then the temperature was raised to 125° C. for 45 mins, cooled to room temperature, then worked up with EtOAc and aqueous NaHCO3 solution, extracted twice with EtOAc and dried over sodium sulfate, and concentrated under reduced pressure. Purification by combi-flash chromatography gave the desired product. LC-MS found: 365.1 (M+H)+.

reactant | Ethyl 6-bromo-2-(bromomethyl)nicotinate | 0.53 mmol, 0.17 g | BrC1=NC(=C(C(=O)OCC)C=C1)CBr | C9H9Br2NO2
reactant | (2S)-2-amino-3-(3-fluorophenyl)propan-1-ol | 0.64 mmol, 0.11 g | N[C@H](CO)CC1=CC(=CC=C1)F | C9H12FNO
reactant | N,N-diisopropylethylamine | 2 mmol, 0.2 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-bromo-6-[(1S)-1-(3-fluorobenzyl)-2-hydroxyethyl]-6,7-dihydro-5H-pyrrolo[3,4-b]pyridin-5-one | BrC1=CC=C2C(=N1)CN(C2=O)[C@H](CO)CC2=CC(=CC=C2)F | C16H14BrFN2O2
